2113-02-08 10:23:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Pleural effusion drained at 400cc
   -Levophed dosing weaned to off
   -Steroids and GCSF started
   -Patient with continued requirement for A/C ventilator support with PSV
   trialed and failed with patient showing rapid respiratory rate
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-7**] 07:21 AM
   Ciprofloxacin - [**2113-2-7**] 11:30 PM
   Metronidazole - [**2113-2-8**] 06:00 AM
   Vancomycin - [**2113-2-8**] 08:04 AM
   Cefipime - [**2113-2-8**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-7**] 08:11 PM
   Fentanyl - [**2113-2-8**] 06:25 AM
   Midazolam (Versed) - [**2113-2-8**] 06:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Allergy / Immunology: Immunocompromised
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-2-8**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.7
C (96.3
   HR: 89 (68 - 115) bpm
   BP: 92/55(70) {89/53(67) - 139/80(105)} mmHg
   RR: 15 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 11,157 mL
                                                                  1,401 mL
   PO:
             TF:
   IVF:
                                                                  3,102 mL
                                                                  1,401 mL
   Blood products:
                                                                  1,055 mL
   Total out:
                                                                  3,334 mL
                                                                    194 mL
   Urine:
                                                                  1,149 mL
                                                                    194 mL
   NG:
                                                                  1,685 mL
   Stool:
   Drains:
   Balance:
                                                                  7,823 mL
                                                                  1,207 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 50.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.32/57/77.[**Numeric Identifier 143**]/26/0
   Ve: 5.9 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, pinpoint
   Head, Ears, Nose, Throat: trach in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+, able to move all extremities
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   16 K/uL
   162 mg/dL
   0.4 mg/dL
   26 mEq/L
   2.8 mEq/L
   21 mg/dL
   109 mEq/L
   140 mEq/L
   25.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2113-2-7**]  04:41 AM
                             [**2113-2-7**]  05:02 AM
                             [**2113-2-7**]  08:25 AM
                             [**2113-2-7**]  10:32 AM
                             [**2113-2-7**]  12:47 PM
                             [**2113-2-7**]  01:16 PM
                             [**2113-2-8**]  12:00 AM
                             [**2113-2-8**]  03:10 AM
                             [**2113-2-8**]  03:49 AM
                             [**2113-2-8**]  06:26 AM
   WBC
   0.1
   0.1
   0.1
   Hct
   22.6
   26.2
   25.0
   Plt
   12
   63
   60
   16
   Cr
   0.4
   0.5
   0.4
   TCO2
   27
   23
   25
   29
   31
   Glucose
   158
   145
   165
   162
   Other labs: PT / PTT / INR:13.6/27.6/1.2, ALT / AST:297/75, Alk Phos /
   T Bili:146/0.8, Differential-Neuts:56.0 %, Band:0.0 %, Lymph:44.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:414 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:2.1 g/dL, LDH:168 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.4
   mg/dL
   ABG-7.32/57/78
   Imaging: CT-Abd/Pelvis--partial SBO suggested without clear cut off and
   increased right sided effusion seen
   CXR-none new
   Microbiology: GS-From
   Assessment and Plan
   56 yo female with stage IV non-small cell lung cancer admitted with
   sepsis and respiratory failure.
   1)Sepsis--Patient with significant compromise at the time of admission
   with severe sepsis and now with >6 liters of IVF pressors have been
   able to be weaned to off at this time.  LIkely sources do include
   pulmonary source with pleural fluid source considered but with WBC=19
   in exudative effusion by LDH criteria but not with active infection
   suggested with normal glucose.  We do not have evidence of active
   infection in alternative areas.
   -Flagyl/Vanco/Cefepime/Cipro
   -Methylprednisolone in place
   -Will continue to follow cultures as they return but by objective
   measures we have seen some reasonable improvement in hemodynamic
   stability
   2)Respiratory Failure-Much improved pulmonary mechanics
   -Bolus sedation would be desired if able to transition patient
   -Will repeat CXR today
   -Will drain fluid from pleural space to maintain optimization of
   pulmonary mechanics
   -Move to MMV mode and look to wean today
   3) CANCER (MALIGNANT NEOPLASM), LUNG-Known disease and current
   palliative Rx in place.
   -Continue with pleural fluid drainage
   4)Neutropenia
Oncology team engaged in process
   -Will continue with GCSF
   -Hope for return of WBC count with last chemotherapy last month and
   will maintain until neutropenia resolved.
   5)Hypokalemia-
   -Replete K+ today
   6)Thrombocytopenia
Source is likely the marrow supression in the
   setting of chemotherapy at this time but will have to monitor counts
   and stability and hold anticoagualtion in the setting of severe
   thrombocytopenia
   -Follow PLT count q day
 SUPERIOR VENA CAVA SYNDROME (SVC)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 NEUTROPENIA
 SHOCK, SEPTIC
   ICU Care
   Nutrition: Tube Feeds to return in the setting of bowel sounds
   returning
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-7**] 03:26 AM
   Multi Lumen - [**2113-2-7**] 03:27 AM
   Prophylaxis:
   DVT: Held in the setting of severe thrombocytopenia
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   CODE STATUS
full code status seen above is entered in error.
   Patient is DNR
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2113-2-8**] 10:27 ------

2113-02-09 07:58:00 Physician Resident Progress Note
Chief Complaint: neutropenic fever
   24 Hour Events:
   - Family update held
   - TF's changed to fibersource HN @ 40cc/hr continuous
   - Ucltx NG, bld cltx pending, sputum commensal flora
   - Onc recs: none left.
   - When sleeping, has SBPs in the 80s, also started decreasing [**Last Name (LF) **], [**First Name3 (LF) **]
   gave another 500mL bolus of NaHCO3/D5W at 4 pm
   -Pt appeared uncomfortable on vent, had increasing SBP to 140s, RN
   thought face appeared more swollen and BS seemed diminished on L; CXR
   done and no e/o pneumothorax or other new abnormality. mod bil pulm
   effusions unchanged.
   -PM ABG: 7.33/ 58/ 92/ 32, changed back to AC overnight with plan to
   reattempt PSV tomorrow AM.
   -pt noted to have SBPs that were labile with lower values w sedation
   (SBP in 80s); since she was up >3L for the day, decision was made to
   restart low dose of levophed for pressure support. [**First Name3 (LF) **] remained low.
   -PM CBC: wbc 0.1, Hgb/HCT: 8.7/24.4, PLTs 10. Given 1 bag PLTs, bumped
   to 64.
   -PM K+ of 3.2, repleted.
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-7**] 07:21 AM
   Vancomycin - [**2113-2-8**] 08:12 PM
   Ciprofloxacin - [**2113-2-9**] 12:56 AM
   Metronidazole - [**2113-2-9**] 05:59 AM
   Cefipime - [**2113-2-9**] 07:46 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-8**] 08:24 PM
   Midazolam (Versed) - [**2113-2-9**] 05:24 AM
   Fentanyl - [**2113-2-9**] 05:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-9**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 76 (72 - 106) bpm
   BP: 106/67(82) {80/48(61) - 154/93(119)} mmHg
   RR: 15 (7 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,816 mL
                                                                  1,141 mL
   PO:
             TF:
                                                                     25 mL
                                                                    105 mL
   IVF:
                                                                  3,578 mL
                                                                  1,036 mL
   Blood products:
                                                                    213 mL
   Total out:
                                                                    347 mL
                                                                    150 mL
   Urine:
                                                                    347 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,469 mL
                                                                    991 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 176 (176 - 540) mL
   PS : 12 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   Compliance: 22.2 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/58/91.[**Numeric Identifier 143**]/27/2
   Ve: 6 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Labs / Radiology
   CXR [**2113-2-8**]: Largely unchanged moderate bilateral pleural effusions. No
   PTX or new abnormality.
Sputum Gram Stain [**2113-2-7**] : culture pending  (4+ GRAM POSITIVE ROD, 2+  GRAM NEGA
TIVE ROD)
   26 K/uL
   7.9 g/dL
   148 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   26 mg/dL
   104 mEq/L
   138 mEq/L
   22.9 %
   0.1 K/uL
        [image002.jpg]
                             [**2113-2-8**]  12:00 AM
                             [**2113-2-8**]  03:10 AM
                             [**2113-2-8**]  03:49 AM
                             [**2113-2-8**]  06:26 AM
                             [**2113-2-8**]  02:58 PM
                             [**2113-2-8**]  03:32 PM
                             [**2113-2-8**]  07:36 PM
                             [**2113-2-8**]  08:21 PM
                             [**2113-2-8**]  09:50 PM
                             [**2113-2-9**]  04:22 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   25.0
   25.2
   24.4
   22.9
   Plt
   16
   13
   10
   64
   26
   Cr
   0.4
   0.6
   0.6
   0.5
   TCO2
   29
   31
   32
   Glucose
   165
   162
   132
   180
   148
   Other labs: PT / PTT / INR:14.1/25.0/1.2, ALT / AST:217/30, Alk Phos /
   T Bili:132/0.4, Differential-Neuts:56.0 %, Band:0.0 %, Lymph:44.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:414 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.1 g/dL, LDH:159 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   56 yo F with stage IV NSCLC, on palliative chemotherapy s/p
   [**Doctor Last Name 293**]/gemcitabine last dose 2/25 presents from NH with
   nausea/vomiting/diarrhea and febrile neutropenia in septic shock.
   # Septic Shock: Source likely pulmonary given positive gram stain, but
   cannot r/o GI source despite negative C. diff. Lactate 0.9. On Levophed
   briefly yesterday in context of low sbp
s & MAP
s less than 65, no
   pressors since 11pm.
   - goal MAP >65
   - Continue Vanc/Cipro/Cefepime/Flagyl, day 3
   - F/U pending blood, sputum cultures
   - Continue stress dose steroids, day 3
   # Febrile Neutropenia: S/p [**Doctor Last Name 293**]/gemcitabine [**2-2**]. On GSCF. Transfusion
   goals HCT>21, plts >10
   - Continue GCSF per Onc recs, day 2
   - Monitor counts daily now
   - Continue Vanc/Cefepime/Cipro given concern for abdominal source
   - F/U outstanding culture data
   - F/U Onc recs
   - [**Hospital1 7**] CBC
   # Partial SBO vs. Motility Disorder
clinically patient producing
   significant stool and CT abd/pel with ?partial obstruction vs ileus.
   Likely sepsis induced gastroparesis.
   - since producing stool and benign abd exams x 2 days, will start low
   rate tube feeds today.
   - send stool for culture
   ? SBO vs ileus -  surgery consulted in ED and feel patient not a
   surgical candidate.
   - monitor exam clinically
   - trend lactate
   # Respiratory Failure
 Acute, hypoxic, likely [**1-10**] volume overload as
   patient 12L length of stay positive. Exam this AM consistent with
   obstructive physiology.
   - Observe on PSV, but no attempt to wean until patient able to
   - Consider diuresis
   # Pancytopenia: DIC labs negative. [**1-10**] to marrow suppression from
   chemotherapy.
   - Transfuse 1u pRBC
s today
   - [**Hospital1 7**] CBC
   - Transfusion goals otherwise as above
   # Loculated Right Pleural Effusion: s/p IP drainage of 400 ccs of fluid
   on [**2113-2-7**]. Gram stain negative and cultures negative to date. LDH
   eff/LDH serum = 0.72, suggestive of exudative process; most likely
   malignancy.
   - Drain 2-3x weekly by IP
   - F/U cultures
   # Low Urine Output: [**Date Range **] <30cc/hr consistently since 2pm yesterday
   despite adeqate IVF resuscitation. No elevation in Cr and likely [**1-10**]
   chemotherapy.
   - Urine electrolytes
   - Hold off on IVF
   - Will transfuse 1u pRBC
s today
   #Hypokalemia: Resolved with IV repletion, likely secondary to
   diarrhea/stool output.
   -Check [**Hospital1 7**] lytes and replete as necessary.
   #Elevated LFTs: likely secondary to septic shock, improving.
   -Trend daily
   ICU Care
   Nutrition: tube feeds
   Fibersource HN (Full) - [**2113-2-8**] 09:29 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-7**] 03:26 AM
   Multi Lumen - [**2113-2-7**] 03:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition: pending clinical improvement

2113-02-10 07:27:00 Physician Resident Progress Note
Chief Complaint: Febrile Neutropenia
   24 Hour Events:
   - Vancomycin d/c'd due to negative blood cultures >48 hours
   - C. diff precautions d/c'd
   - Stress dose steroids decreased
   - Urine lytes demonstrated FeNa of 0.2
   - Hypertensive with any movement/waking to 200's/100's
   - Lasix gtt at 5-10cc/hr began at 9PM with excellent UOP
   - received 1u pRBC's with appropriate bump to 27.1
   - fever to 101 at 20:45, blood cultures sent - vancomycin restarted
   - final sputum cx: commensal flora
 BLOOD CULTURED - At [**2113-2-9**] 11:21 PM
    blood c/s 1 of 2 from A line
 BLOOD CULTURED - At [**2113-2-9**] 11:22 PM
   blood c/s 2 of 2 from CVL
 FEVER - 101.2
F - [**2113-2-9**] 08:00 PM
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-9**] 10:00 PM
   Metronidazole - [**2113-2-9**] 10:17 PM
   Cefipime - [**2113-2-9**] 11:32 PM
   Ciprofloxacin - [**2113-2-9**] 11:33 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 325 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-9**] 08:23 PM
   Midazolam (Versed) - [**2113-2-9**] 08:23 PM
   Fentanyl - [**2113-2-9**] 11:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-10**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.6
C (99.7
   HR: 118 (71 - 130) bpm
   BP: 146/90(113) {92/56(69) - 206/128(161)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,438 mL
                                                                    876 mL
   PO:
             TF:
                                                                    641 mL
                                                                    295 mL
   IVF:
                                                                  3,157 mL
                                                                    451 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,240 mL
                                                                  1,220 mL
   Urine:
                                                                  1,240 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,198 mL
                                                                   -344 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 479 (439 - 479) mL
   RR (Set): 15
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 92%
   ABG: ///28/
   Ve: 6 L/min
   Physical Examination
   General: intubated
   HEENT: pupils minimally reactive, Sclera anicteric but edematous, MMD,
   oropharynx clear
   Neck: supple, no LAD
   Lungs: Coarse throughout, rhonorus at right base, no wheezes, right
   pleurex catheter w/out drainage
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  mildly distended, tense,+ bowel sounds, apparently TTP
   diffusely, G-tube in place
   GU: foley, > 500cc urine
   Ext: warm, well perfused, 1+ pulses, anasarcic, no mottling
   Neurologic: Responds to voice, can follow simple commands. Able to move
   all 4 extremities.
   Labs / Radiology
   6 K/uL
   9.0 g/dL
   153 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   32 mg/dL
   102 mEq/L
   136 mEq/L
   26.3 %
   0.1 K/uL
        [image002.jpg]
                             [**2113-2-8**]  02:58 PM
                             [**2113-2-8**]  03:32 PM
                             [**2113-2-8**]  07:36 PM
                             [**2113-2-8**]  08:21 PM
                             [**2113-2-8**]  09:50 PM
                             [**2113-2-9**]  04:22 AM
                             [**2113-2-9**]  02:53 PM
                             [**2113-2-9**]  05:00 PM
                             [**2113-2-9**]  10:18 PM
                             [**2113-2-10**]  04:24 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   0.1
   Hct
   25.2
   24.4
   22.9
   27.1
   26.3
   Plt
   13
   10
   64
   26
   15
   6
   Cr
   0.6
   0.6
   0.5
   0.8
   0.7
   0.7
   TCO2
   32
   Glucose
   132
   180
   148
   99
   167
   153
   Other labs: PT / PTT / INR:13.7/25.2/1.2, ALT / AST:165/28, Alk Phos /
   T Bili:144/0.3, Differential-Neuts:56.0 %, Band:0.0 %, Lymph:44.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:414 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.1 g/dL, LDH:154 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.6
   mg/dL
   Fluid analysis / Other labs: Pleural fluid [**2113-2-7**]
   WBC, Pleural 19* #/uL 0 - 0
   RBC, Pleural 6000* #/uL 0 - 0
   Polys 15* % 0 - 0
   Lymphocytes 72* % 0 - 0
     LYMPHOCYTES, HISTIOCYTES AND MESOTHELIAL CELLS
   [**Last Name (NamePattern4) 13790**],MD
   Monos 0 % 0 - 0
   Mesothelial Cells 1* % 0 - 0
   Macrophages 12* % 0 - 0
   Imaging: HISTORY: Carcinoma with febrile neutropenia.
   CXR [**2-9**]:
   In comparison with the study of [**2-8**], there is little overall change
   in the appearance of the bilateral pleural effusions and underlying
   compressive atelectasis. Some engorgement of pulmonary vessels persists
   in a
   patient with severe scoliosis and tracheostomy tube.
   Microbiology: [**2113-2-9**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2113-2-9**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2113-2-7**]  PLEURAL FLUID GRAM STAIN-FINAL; FLUID CULTURE-PRELIMINARY;
   ANAEROBIC CULTURE-PRELIMINARY INPATIENT
   [**2113-2-7**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2113-2-7**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2113-2-7**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2113-2-7**]  URINE URINE CULTURE-FINAL EMERGENCY [**Hospital1 **]
   Assessment and Plan
   56 yo F with stage IV NSCLC, on palliative chemotherapy s/p
   [**Doctor Last Name 293**]/gemcitabine last dose 2/25 presents from NH with
   nausea/vomiting/diarrhea and febrile neutropenia in septic shock, more
   alert today.
   # Septic Shock: Source likely pulmonary given positive gram stain, but
   cannot r/o GI source despite negative C. diff. Lactate 0.9. Spiked T
   101.5 last night, restarted vanc, sent BCx.  Blood cultures from [**2113-2-6**]
   NGTD.  Not on pressors currently.
   - goal MAP >65
   - Continue vanc/Cipro/Cefepime/Flagyl, day 5
   - F/U pending blood, sputum cultures
   - Decrease stress dose steroids to Methylprednisolone 50mg [**Hospital1 **], day 5
   # Febrile Neutropenia: S/p [**Doctor Last Name **]/Gemcitabine [**2-2**] (day 9 post-chemo),
   expect nadir on day [**9-21**] and recovery ~day 21. On GSCF day 4. WBC
   still 0.1.
   - Continue GCSF per Onc recs, day 4
   - add on differential to CBC
   - Monitor counts daily
   - Continue Cefepime/Cipro/Flagyl, day 4
   - F/U outstanding culture data
   - F/U Onc recs
   - [**Hospital1 7**] CBC
   # Thrombocytopenia/Pancytopenia: [**1-10**] to marrow suppression from
   chemotherapy. Hct 22.9 yesterday am, 27 by afternoon, now 26.3.
   Transfused 1 U PRBC yesterday,  Hct this am 26. Transfusion goals
   HCT>21, plts >10.
   - Transfuse platelets today
   - [**Hospital1 7**] CBC
   - Transfusion goals otherwise as above
   # Respiratory Failure: Acute, hypoxic, likely [**1-10**] volume overload &
   infection as patient 12L length of stay positive.  On CMV/AC at
   15/400/40/10.
   - PSV as tolerated.
   # Oliguria: Started lasix gtt yesterday with excellent response
   (-1200), though still positive given IV abx and TF. No elevation in
   Cr.  Given 1 U PRBC for volume yesterday also.
   - switch to lasix 40mg daily, follow I/O
   # Partial SBO vs. Motility Disorder: Clinically patient producing
   significant stool with bowel sounds and CT abd/pel with ?partial
   obstruction vs ileus. Surgery consulted in ED and feel patient not a
   surgical candidate.  Patient at goal for tube feeds, making stool.  C.
   Diff negative.
   - Continue tube feeds, advancing to goal of 40cc/day as tolerates
   - F/U cultures
   # Loculated Right Pleural Effusion: s/p IP drainage of 400 ccs of fluid
   on [**2113-2-7**], drained again today. Gram stain negative and cultures
   negative to date. LDH eff/LDH serum = 0.72, suggestive of exudative
   process; most likely malignancy.  Cultures negative to date.
   - Drain 2-3x weekly by IP
   - F/U cultures
   #Hypokalemia: Resolved with IV repletion, likely secondary to
   diarrhea/stool output.
   -Check [**Hospital1 7**] lytes and replete as necessary.
   #Elevated LFTs: likely secondary to septic shock, improving.
   -Trend daily
   # Access: Has a femoral CVL and femoral A line.
   - call [**First Name4 (NamePattern1) 4731**] [**Last Name (NamePattern1) 916**] re: access options.
   # Goals of care. Patient mildly clinically improved today, but given
   febrile neutropenia, length before anticipated recovery of WBCs, poor
   respiratory status, and general prognosis of stage IV lung CA, her
   overall prognosis is extremely poor.  Will need to discuss goals of
   care with family.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-8**] 09:29 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-7**] 03:26 AM
   Multi Lumen - [**2113-2-7**] 03:27 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:  HOB elevated, mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition: pending clinical improvement

2113-02-11 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - transfused 1u PLTs 6 -> 36 --> <5
   - restarted vanco
   - f/u cultures: blood pending, pleural fluid NG
   - lasix gtt changed to 40 mg IV lasix daily
   - UE u/s -> no DVT
   - CXR read:
   Tracheostomy tube 5.5 cm above the carina. Distended R main stem. No
   change in pleural effusions or left basal atelectasis. RUL atelectasis
   is redemonstrated c/w post-obstruction atelectasis.
   -spoke w IR re: placement of tunneled 3 port catheter. Will likely do
   [** **] and need PLTs at >50 for procedure.
   - T 101.8 at 16:00, sent BCx x 2, pending
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-10**] 07:21 PM
   Cefipime - [**2113-2-11**] 12:00 AM
   Ciprofloxacin - [**2113-2-11**] 12:00 AM
   Metronidazole - [**2113-2-11**] 05:06 AM
   Infusions:
   Fentanyl (Concentrate) - 350 mcg/hour
   Midazolam (Versed) - 3.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2113-2-10**] 03:53 PM
   Pantoprazole (Protonix) - [**2113-2-10**] 08:30 PM
   Midazolam (Versed) - [**2113-2-11**] 06:55 AM
   Fentanyl - [**2113-2-11**] 06:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-11**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 35.5
C (95.9
   HR: 115 (81 - 134) bpm
   BP: 97/61(75) {81/50(61) - 187/108(156)} mmHg
   RR: 14 (9 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,232 mL
                                                                    967 mL
   PO:
             TF:
                                                                    800 mL
                                                                    287 mL
   IVF:
                                                                  1,967 mL
                                                                    580 mL
   Blood products:
                                                                    235 mL
   Total out:
                                                                  4,585 mL
                                                                    455 mL
   Urine:
                                                                  4,585 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,353 mL
                                                                    512 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 29 cmH2O
   Plateau: 17 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/47/76.[**Numeric Identifier 126**]/30/6
   Ve: 6 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General: intubated, sedated.
   HEENT: pupils minimally reactive, Sclera anicteric but edematous, MMD,
   oropharynx clear
   Neck: supple, no LAD
   Lungs: Coarse throughout, rhonorus at right base, no wheezes, right
   pleurex catheter w/out drainage
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  mildly distended, tense,+ bowel sounds, mildly TTP diffusely,
   G-tube in place
   GU: foley
   Ext: warm, well perfused, 1+ pulses, anasarcic, no mottling
   Neurologic: Does not respond to voice, does not follow commands.
   Labs / Radiology
   5 K/uL
   9.0 g/dL
   130 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.2 mEq/L
   25 mg/dL
   96 mEq/L
   134 mEq/L
   25.6 %
   0.1 K/uL
        [image002.jpg]
                             [**2113-2-8**]  08:21 PM
                             [**2113-2-8**]  09:50 PM
                             [**2113-2-9**]  04:22 AM
                             [**2113-2-9**]  02:53 PM
                             [**2113-2-9**]  05:00 PM
                             [**2113-2-9**]  10:18 PM
                             [**2113-2-10**]  04:24 AM
                             [**2113-2-10**]  03:13 PM
                             [**2113-2-11**]  03:49 AM
                             [**2113-2-11**]  05:57 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   0.1
   Hct
   22.9
   27.1
   26.3
   29.2
   25.6
   Plt
   64
   26
   15
   6
   36
   5
   Cr
   0.6
   0.5
   0.8
   0.7
   0.7
   0.6
   0.6
   TCO2
   33
   Glucose
   180
   148
   99
   167
   153
   111
   130
   Other labs: PT / PTT / INR:14.3/26.5/1.2, ALT / AST:165/28, Alk Phos /
   T Bili:144/0.3, Differential-Neuts:20.0 %, Band:0.0 %, Lymph:70.0 %,
   Mono:10.0 %, Eos:0.0 %, Fibrinogen:414 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.1 g/dL, LDH:154 IU/L, Ca++:7.8 mg/dL, Mg++:1.4 mg/dL, PO4:2.4
   mg/dL
   Imaging: CXR
   Microbiology: Blood cultures pending
   56 yo F with stage IV NSCLC, on palliative chemotherapy s/p
   [**Doctor Last Name 293**]/gemcitabine last dose 2/25 presents from NH with
   nausea/vomiting/diarrhea and febrile neutropenia in septic shock.
   # Septic Shock: Source likely pulmonary given positive gram stain, but
   cannot r/o GI source despite negative C. diff. Lactate 0.9. Spiked T
   101.8 , sent BCx.  Blood cultures from [**2113-2-6**] NGTD.  Not on pressors
   currently.
   - goal MAP >65
   - Continue vanc/Cipro/Cefepime/Flagyl, day 6
   - F/U pending blood cultures
   - Decreased stress dose steroids to Methylprednisolone 50mg [**Hospital1 **], day 6
   # Febrile Neutropenia: S/p [**Doctor Last Name **]/Gemcitabine [**2-2**] (day 10 post-chemo),
   expect nadir on day [**9-21**] and recovery ~day 21. On GSCF day 5. WBC
   still 0.1.
   - Continue GCSF per Onc recs, day 5
   - add on differential to CBC
   - Monitor counts daily
   - Continue Cefepime/Cipro/Flagyl, day 6
   - F/U outstanding culture data
   - F/U Onc recs
   - [**Hospital1 7**] CBC
   # Thrombocytopenia/Pancytopenia: [**1-10**] to marrow suppression from
   chemotherapy. Hct 26.3 yesterday, this am HCT 25.6. Transfusion goals
   HCT>21, plts >10. Platelets found to be 6 yesterday, given 1 u PLTs
   with bump to 36, now decreased again at <5.
   - Transfuse platelets today
   - [**Hospital1 7**] CBC
   - Transfusion goals otherwise as above
   -Consider DIC panel, last checked on [**2-7**].
   # Respiratory Failure: Acute, hypoxic, likely [**1-10**] volume overload &
   infection as patient 13L length of stay positive.  On CMV/AC at
   15/400/40/8.
   - PSV as tolerated.
   -Continue with Lasix 40 mg IV daily.
   # Oliguria: Started lasix gtt [**2-9**] with excellent response (-1200),
   though still positive given IV abx and TF. No elevation in Cr.
   - Continue lasix 40mg daily, follow I/O
   # Partial SBO vs. Motility Disorder: Clinically patient producing
   significant stool with bowel sounds and CT abd/pel with ?partial
   obstruction vs ileus. Surgery consulted in ED and feel patient not a
   surgical candidate.  Patient at goal for tube feeds, making stool.  C.
   Diff negative.
   - Continue tube feeds, advancing to goal of 40cc/day as tolerates
   - F/U cultures
   -Repeat cdiff
   # Loculated Right Pleural Effusion: s/p IP drainage of 400 ccs of fluid
   on [**2113-2-7**], drained again [**2-10**]. Gram stain negative and cultures negative
   to date. LDH eff/LDH serum = 0.72, suggestive of exudative process;
   most likely malignancy.  Cultures negative to date.
   - Drain 2-3x weekly by IP
   - F/U cultures
   #Hypokalemia: Resolved with IV repletion, likely secondary to
   diarrhea/stool output.
   -Check [**Hospital1 7**] lytes and replete as necessary.
   #Elevated LFTs: likely secondary to septic shock, improving.
   -Trend daily
   # Access: Has a femoral CVL and femoral A line.
   - Will have tunneled 3 port cath placed on [**Last Name (LF) 1088**], [**First Name3 (LF) **] need PLTs>50
   for procedure.
   # Goals of care. Patient mildly clinically improved today, but given
   febrile neutropenia, length before anticipated recovery of WBCs, poor
   respiratory status, and general prognosis of stage IV lung CA, her
   overall prognosis is extremely poor.  Will need to discuss goals of
   care with family.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-8**] 09:29 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-7**] 03:26 AM
   Multi Lumen - [**2113-2-7**] 03:27 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:  HOB elevated, mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Pt seen and evaluated with team. Please see above for details of recent
   hx, exam and plan.
   In addition:
   56 yr woman with Stage IV NSCLCA on palliative chemo with
   [**Doctor Last Name **]/Gemcyabine
   Here from [**Hospital1 238**] with N,V, diarrhea, febrile neutropenia in septic shock.
   Trach
d on vent
   Plats < 5 this AM
   BC
s pending
   Pleural fluid with NG
   95.9 115  97/61  14 on CMV 40% 8 PEEP
   Fluids = 1.3 liters neg
   Very sedated today with Fentanyl/Midaz
   Lungs
 coarse/rhonchorous
   Abdomen
 distended, g-tube in place
   Venodynes on LE
   Lab: WBC 0.1
            Plats 5000
           K
 3.2 (repleted)
   Plan: Continue full vent support
             Covered with Cefipime,  Cipro,  Filgrastin, Vanco for
   neutropenic sepsis
             Plat transfusions to keep Plats at
            Will need Plats >50k  for procedure planned for [**Hospital1 1088**]
            Spoke with husband who is proxy
 he is leaning in the
   direction of CMO.
   Time Spent: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 206**], MD
   on:[**2113-2-11**] 11:56 ------

2113-02-12 06:56:00 Physician Resident Progress Note
Chief Complaint: Neutropenic fever
   24 Hour Events:
   - Patient received 2u's of plt's for PLT count of 5, as did not bump to
   first unit.  HLA Ab screen sent. PLT count 33 after second unit.
   - Up 1L at 6 PM on Furosemide 40 mg IV daily, given additional 40mg IV
   x1.
   - Requiring higher doses of Fentanyl to keep comfortable due to
   anxiety.
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2113-2-11**] 12:15 PM
   Vancomycin - [**2113-2-11**] 08:15 PM
   Cefipime - [**2113-2-12**] 12:05 AM
   Metronidazole - [**2113-2-12**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2113-2-11**] 04:00 PM
   Pantoprazole (Protonix) - [**2113-2-11**] 08:12 PM
   Midazolam (Versed) - [**2113-2-12**] 03:33 AM
   Fentanyl - [**2113-2-12**] 03:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-12**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.8
C (96.5
   HR: 104 (72 - 126) bpm
   BP: 137/80(103) {87/51(66) - 137/80(103)} mmHg
   RR: 15 (13 - 18) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,986 mL
                                                                    465 mL
   PO:
             TF:
                                                                    890 mL
                                                                     88 mL
   IVF:
                                                                  2,131 mL
                                                                    337 mL
   Blood products:
                                                                    525 mL
   Total out:
                                                                  3,335 mL
                                                                    400 mL
   Urine:
                                                                  2,705 mL
                                                                    400 mL
   NG:
                                                                    330 mL
   Stool:
   Drains:
   Balance:
                                                                    651 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 160
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/50/86.[**Numeric Identifier 143**]/30/7
   Ve: 6 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General: intubated, eyes open, no response to voice or questioning,
   anxious-appearing
   HEENT: pupils reactive, edematous sclera, MMD
   Neck: supple, no LAD
   Lungs: Coarse throughout, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no audible murmurs
   Abdomen:  tense, non-distended, no grimace to palpation, normoactive
   bowel sounds
   GU: foley in place
   Ext: warm, well perfused, 1+ pulses, upper extremities with significant
   anasarca
   Neurologic: moving arms & feet bilaterally
   Labs / Radiology
   25 K/uL
   8.2 g/dL
   101 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.3 mEq/L
   23 mg/dL
   96 mEq/L
   134 mEq/L
   23.7 %
   0.5 K/uL
        [image002.jpg]
                             [**2113-2-9**]  05:00 PM
                             [**2113-2-9**]  10:18 PM
                             [**2113-2-10**]  04:24 AM
                             [**2113-2-10**]  03:13 PM
                             [**2113-2-11**]  03:49 AM
                             [**2113-2-11**]  05:57 AM
                             [**2113-2-11**]  09:46 AM
                             [**2113-2-11**]  03:58 PM
                             [**2113-2-11**]  08:07 PM
                             [**2113-2-12**]  04:26 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   0.5
   Hct
   27.1
   26.3
   29.2
   25.6
   23.7
   Plt
   15
   6
   36
   5
   7
   33
   25
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   33
   34
   Glucose
   167
   153
   111
   130
   133
   101
   Other labs: PT / PTT / INR:14.8/28.4/1.3, ALT / AST:107/23, Alk Phos /
   T Bili:111/0.3, Differential-Neuts:47.0 %, Band:6.0 %, Lymph:25.0 %,
   Mono:20.0 %, Eos:0.0 %, Fibrinogen:414 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.4 g/dL, LDH:167 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Imaging: CXR [**2-11**]: (Per team read) Slight increase in blunting of
   diaphraghm on left & increased basilar infiltrate on right
   Microbiology: Blood culture [**2-9**] & [**2-11**]: Pending
   Assessment and Plan
   56 yo F with stage IV NSCLC, on palliative chemotherapy s/p
   [**Doctor Last Name 293**]/gemcitabine last dose 2/25 presents from NH with
   nausea/vomiting/diarrhea and febrile neutropenia in septic shock.
   # Sepsis: Source likely pulmonary given positive gram stain (GNR &
   GPR
s), but cannot r/o GI source despite negative C. diff. Lactate 0.9.
   Blood cultures from [**2113-2-6**] negative, but blood cultures 3/04 & [**2-11**]
   pending.
   - Goal MAP >65
   - Continue Vanc/Cipro/Cefepime/Flagyl, day 7
   - F/U pending blood cultures
   - U/A & Urine culture resent for cloudy urine this AM
   - Discuss Methylprednisolone dose with BMT, until then continue 50mg
   [**Hospital1 7**], day 7
   # Febrile Neutropenia: Last fever on [**2-10**] to 101. s/p [**Doctor Last Name **]/Gemcitabine
   [**2-2**] (day 11post-chemo), expect nadir on day [**9-21**] and recovery ~day
   21. On GSCF day 6. WBC 0.5 up from 0.1 since admission with left shift
   suggesting response to GCSF.
   - Continue GCSF per Onc recs, day 6
   - Continue Vanc/Cefepime/Cipro/Flagyl, day 7
   - Monitor counts daily
   - F/U outstanding culture data
   - F/U Onc recs
   # Thrombocytopenia/Pancytopenia: [**1-10**] to marrow suppression from
   chemotherapy. Hct 23.7 down from 25.6 yesterday. Transfusion goals
   HCT>21, plts >10. Platelets found to be 5 yesterday, given 2u PLTs with
   bump to 33. PLT
s now 25. Coagulation panel stable, LFT
s downtrending.
   - [**Hospital1 7**] CBC
   - Transfusion goals as above (except for procedure goals)
   - Check DIC panel if LFT
s & synthetic function worsen
   # Respiratory Failure: Acute, hypoxic, likely [**1-10**] volume overload &
   infection as patient nearly 14L length of stay positive.  No changes in
   ventilator settings over past 24 hours and unlikely to make
   improvements until significant diuresis.
   - Increase Lasix 40 mg IV to [**Hospital1 7**]
   - Wean as tolerates
   # Oliguria: Started lasix gtt [**2-9**] with excellent response (-1200), but
   held due to hypotension. Cr stable at 0.6.
   - Increase Lasix 40mg IV daily to 40mg [**Hospital1 7**]
   - Goal diuresis negative 1L today
   - [**Hospital1 7**] electrolytes
   # Partial SBO vs. Motility Disorder: Clinically patient producing
   significant stool with bowel sounds and CT abd/pel with ?partial
   obstruction vs ileus. Surgery consulted in ED and feel patient not a
   surgical candidate.  Patient at goal for tube feeds, making stool.  C.
   Diff negative.
   - Continue tube feeds at goal rate today
   - F/U cultures
   - Repeat C. diff
   # Loculated Right Pleural Effusion: s/p IP drainage of 400 ccs of fluid
   on [**2113-2-7**], drained 350cc again [**2-10**]. Gram stain negative and cultures
   negative. LDH eff/LDH serum = 0.72, suggestive of exudative process;
   most likely malignancy.
   - Drain pleurex q3 days
   # Elevated LFTs: Improving. Likely secondary to septic shock.
   -Trend daily
   # Access: Has a femoral CVL and femoral A line.  Will have tunneled 3
   port catheter placed on [**2-13**] & will need PLTs>50 for procedure.
   - Transfuse 1u PLT
s this AM, repeat for goal of 50
   # Goals of care: Overall prognosis poor without demonstrable clinical
   improvement. Length before anticipated recovery of WBCs, respiratory
   status unknown, but patient not a candidate for further chemotherapy.
   - Family meeting today with clarification of patient
s HCP as both
   husband & daughter [**Name (NI) **] claim HCP status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-12**] 04:32 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-7**] 03:26 AM
   Multi Lumen - [**2113-2-7**] 03:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  HOB elevated, mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: pending goals of care discussion/clinical improvement
   ------ Protected Section ------
   Pt seen and evaluated with team. Please see above for details of
   history and plan
   In addition:
   56 yr woman with NSC Lung CA  - Stage 4
   Requiring higher doses of fentanyl/versed
   Holding tube feeds
 clots in stomach
   99.2   104  137/80   15  96%
   AC
 440   15   fi02 60%   PEEP 10
   Fluids - + 650 ml/ 14 liters+ LOS
   PE:
   Comatose, sedated on vent
   Lungs
 Rhonchorous
   Cor
 distant HS
   Abdomen
 tense, BS present
   Ext
 moves extrem spontaneously
   WBC 0.5
   Plats 25K
   Hct 23.7
   K - repleted
   BC
s pending
   Plan:
   Continues to be vent dependent
   Sedated, not able to wean
   Continuing Vanc Cipro Cefipime Flagyl for presumed sepsis
   WBC has bumped today
   Clarify need for plats > 50K for procedure tomorrow
   Time Spent: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 206**], MD
   on:[**2113-2-12**] 10:46 ------

2113-02-13 07:17:00 Physician Resident Progress Note
Chief Complaint: CC: Shortness of Breath
   [**Hospital Unit Name 1**] Admission: Hypercarbic Respiratory Failure
   24 Hour Events:
   - ecg for concern for st elevations, ecg similar to prior from [**1-/2113**],
   but CE's x 2 were normal
   - U/A slightly positive (few bacteria, tr leuks) with 12 granular casts
   - TF's held @ 10AM due to blood clots in residuals & g-tube dressing
   saturated with TF's in the AM, by 2PM, new dressing was saturated &
   >100cc residuals despite Reglan, but no clots --- so all G-tube meds
   held & reglan po switched to iv
   - At 4pm, patient again with saturated g-tube dressing appearing
   yellow, KUB ordered & was unconcerning for free air or dilated bowel
   loops
   - 1L negative at 4pm, received another 40mg IV Lasix x 1, nearly 2L
   negative by 8pm
   - family updated
   - biliary drainage around g-tube site
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-12**] 07:55 PM
   Cefipime - [**2113-2-13**] 12:30 AM
   Ciprofloxacin - [**2113-2-13**] 12:30 AM
   Metronidazole - [**2113-2-13**] 06:05 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2113-2-12**] 04:33 PM
   Pantoprazole (Protonix) - [**2113-2-12**] 07:55 PM
   Midazolam (Versed) - [**2113-2-13**] 05:01 AM
   Fentanyl - [**2113-2-13**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-13**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96.1
   HR: 112 (62 - 113) bpm
   BP: 141/82(106) {88/55(68) - 186/103(141)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,293 mL
                                                                    639 mL
   PO:
             TF:
                                                                    205 mL
   IVF:
                                                                  1,908 mL
                                                                    639 mL
   Blood products:
   Total out:
                                                                  4,412 mL
                                                                    747 mL
   Urine:
                                                                  4,352 mL
                                                                    497 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,119 mL
                                                                   -108 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 184 (184 - 184) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 105
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 93%
   ABG: 7.50/49/70/33/12
   Ve: 5.6 L/min
   PaO2 / FiO2: 140
   Physical Examination
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Physical Examination
   General: intubated, eyes open, no response to voice or questioning,
   anxious-appearing
   HEENT: pupils reactive, edematous sclera, MMD
   Neck: supple, no LAD
   Lungs: Coarse throughout, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no audible murmurs
   Abdomen:  tense, non-distended, no grimace to palpation, normoactive
   bowel sounds
   GU: foley in place
   Ext: warm, well perfused, 1+ pulses, upper extremities with significant
   anasarca
   Neurologic: moving arms & feet bilaterally
   Labs / Radiology
   18 K/uL
   8.7 g/dL
   105 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.4 mEq/L
   25 mg/dL
   95 mEq/L
   135 mEq/L
   25.6 %
   2.3 K/uL
        [image002.jpg]
                             [**2113-2-11**]  03:49 AM
                             [**2113-2-11**]  05:57 AM
                             [**2113-2-11**]  09:46 AM
                             [**2113-2-11**]  03:58 PM
                             [**2113-2-11**]  08:07 PM
                             [**2113-2-12**]  04:26 AM
                             [**2113-2-12**]  11:12 AM
                             [**2113-2-12**]  02:24 PM
                             [**2113-2-13**]  03:23 AM
                             [**2113-2-13**]  03:37 AM
   WBC
   0.1
   0.5
   2.3
   Hct
   25.6
   23.7
   25.3
   25.6
   Plt
   5
   7
   33
   25
   21
   18
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   33
   34
   32
   40
   Glucose
   130
   133
   101
   101
   105
   Other labs: PT / PTT / INR:14.4/26.1/1.2, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:91/21, Alk Phos / T Bili:115/0.3,
   Differential-Neuts:47.0 %, Band:6.0 %, Lymph:25.0 %, Mono:20.0 %,
   Eos:0.0 %, Fibrinogen:414 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:187 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
    Assessment and Plan
   56 yo F with stage IV NSCLC, on palliative chemotherapy s/p
   [**Doctor Last Name 293**]/gemcitabine last dose 2/25 presents from NH with
   nausea/vomiting/diarrhea and febrile neutropenia in septic shock.
   # Sepsis: Source likely pulmonary given positive gram stain (GNR &
   GPR
s), but cannot r/o GI source despite negative C. diff. Lactate 0.9.
   Blood cultures from [**2113-2-6**] negative, but blood cultures 3/04 & [**2-11**]
   pending.
   - Goal MAP >65
   - Continue Vanc/Cipro/Cefepime/Flagyl, day 7
   - F/U pending blood cultures
   - U/A & Urine culture resent for cloudy urine this AM
   - Discuss Methylprednisolone dose with BMT, until then continue 50mg
   [**Hospital1 7**], day 7
   # Febrile Neutropenia: Last fever on [**2-10**] to 101. s/p [**Doctor Last Name **]/Gemcitabine
   [**2-2**] (day 11post-chemo), expect nadir on day [**9-21**] and recovery ~day
   21. On GSCF day 6. WBC 0.5 up from 0.1 since admission with left shift
   suggesting response to GCSF.
   - Continue GCSF per Onc recs, day 6
   - Continue Vanc/Cefepime/Cipro/Flagyl, day 7
   - Monitor counts daily
   - F/U outstanding culture data
   - F/U Onc recs
   # Thrombocytopenia/Pancytopenia: [**1-10**] to marrow suppression from
   chemotherapy. Hct 23.7 down from 25.6 yesterday. Transfusion goals
   HCT>21, plts >10. Platelets found to be 5 yesterday, given 2u PLTs with
   bump to 33. PLT
s now 25. Coagulation panel stable, LFT
s downtrending.
   - [**Hospital1 7**] CBC
   - Transfusion goals as above (except for procedure goals)
   - Check DIC panel if LFT
s & synthetic function worsen
   # Respiratory Failure: Acute, hypoxic, likely [**1-10**] volume overload &
   infection as patient nearly 14L length of stay positive.  No changes in
   ventilator settings over past 24 hours and unlikely to make
   improvements until significant diuresis.
   - Increase Lasix 40 mg IV to [**Hospital1 7**]
   - Wean as tolerates
   # Oliguria: Started lasix gtt [**2-9**] with excellent response (-1200), but
   held due to hypotension. Cr stable at 0.6.
   - Increase Lasix 40mg IV daily to 40mg [**Hospital1 7**]
   - Goal diuresis negative 1L today
   - [**Hospital1 7**] electrolytes
   # Partial SBO vs. Motility Disorder: Clinically patient producing
   significant stool with bowel sounds and CT abd/pel with ?partial
   obstruction vs ileus. Surgery consulted in ED and feel patient not a
   surgical candidate.  Patient at goal for tube feeds, making stool.  C.
   Diff negative.
   - Continue tube feeds at goal rate today
   - F/U cultures
   - Repeat C. diff
   # Loculated Right Pleural Effusion: s/p IP drainage of 400 ccs of fluid
   on [**2113-2-7**], drained 350cc again [**2-10**]. Gram stain negative and cultures
   negative. LDH eff/LDH serum = 0.72, suggestive of exudative process;
   most likely malignancy.
   - Drain pleurex q3 days
   # Elevated LFTs: Improving. Likely secondary to septic shock.
   -Trend daily
   # Access: Has a femoral CVL and femoral A line.  Will have tunneled 3
   port catheter placed on [**2-13**] & will need PLTs>50 for procedure.
   - Transfuse 1u PLT
s this AM, repeat for goal of 50
   # Goals of care: Overall prognosis poor without demonstrable clinical
   improvement. Length before anticipated recovery of WBCs, respiratory
   status unknown, but patient not a candidate for further chemotherapy.
   - Family meeting today with clarification of patient
s HCP as both
   husband & daughter [**Name (NI) **] claim HCP status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-7**] 03:26 AM
   Multi Lumen - [**2113-2-7**] 03:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-02-14 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ALL abx d/c'd yesterday AM given recovery of counts
   - 3PM CBC & lytes: WBC 8.8, stopped GCSF
   - AM CXR: radiology [**Location (un) **] as worsening edema/atelectasis bilaterally
   - changed to lasix gtt
   - restarted tube feeds
   - family meeting at 1PM today with pt's daughter, we emailed her
   primary oncologist Dr. [**Last Name (STitle) 821**]
   - woke up at 20:00, told us that she wants to go home, with hospice.
   Agrees with family meeting today.
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2113-2-13**] 06:05 AM
   Vancomycin - [**2113-2-13**] 07:45 AM
   Cefipime - [**2113-2-13**] 08:21 AM
   Ciprofloxacin - [**2113-2-14**] 12:25 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-13**] 07:57 PM
   Midazolam (Versed) - [**2113-2-14**] 02:28 AM
   Fentanyl - [**2113-2-14**] 02:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-14**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 88 (71 - 112) bpm
   BP: 81/51(62) {81/51(62) - 172/100(131)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,990 mL
                                                                    524 mL
   PO:
             TF:
                                                                     68 mL
                                                                    151 mL
   IVF:
                                                                  1,922 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  2,462 mL
                                                                  1,020 mL
   Urine:
                                                                  2,212 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -472 mL
                                                                   -496 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 13
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: ///34/
   Ve: 5.2 L/min
   Physical Examination
   Gen: Trached, alert, responds to verbal commands, moves all extremities
   HEENT: pupils reactive
   Neck: supple, no LAD
   Lungs: Coarse throughout, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no audible murmurs
   Abdomen:  tense, non-distended, NT, normoactive bowel sounds
   GU: foley in place
   Ext: warm, well perfused, 1+ pulses, upper extremities with significant
   anasarca
   Neurologic: moving arms & feet bilaterally
   Labs / Radiology
   41 K/uL
   10.5 g/dL
   113 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.7 mEq/L
   25 mg/dL
   93 mEq/L
   134 mEq/L
   30.3 %
   16.4 K/uL
        [image002.jpg]
                             [**2113-2-11**]  09:46 AM
                             [**2113-2-11**]  03:58 PM
                             [**2113-2-11**]  08:07 PM
                             [**2113-2-12**]  04:26 AM
                             [**2113-2-12**]  11:12 AM
                             [**2113-2-12**]  02:24 PM
                             [**2113-2-13**]  03:23 AM
                             [**2113-2-13**]  03:37 AM
                             [**2113-2-13**]  02:37 PM
                             [**2113-2-14**]  03:54 AM
   WBC
   0.5
   2.3
   8.8
   16.4
   Hct
   23.7
   25.3
   25.6
   30.9
   30.3
   Plt
   7
   33
   25
   21
   18
   32
   41
   Cr
   0.6
   0.6
   0.7
   0.7
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   34
   32
   40
   Glucose
   133
   101
   101
   105
   110
   113
   Other labs: PT / PTT / INR:14.2/24.1/1.2, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:101/37, Alk Phos / T Bili:150/0.3,
   Differential-Neuts:56.0 %, Band:7.0 %, Lymph:8.0 %, Mono:23.0 %,
   Eos:0.0 %, Fibrinogen:414 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:452 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR [**2113-2-13**]:
   Moderate right pleural effusion, partially fissural, it is probably
   larger, as
   the left lung demonstrates new mild pulmonary edema persists in the
   left lower
   lobe atelectasis. Small-to-moderate left pleural effusion is probably
   present
   as well. Tracheostomy tube in standard placement.
   Microbiology: blood cultures pending
   urine culture and c diff negative
   Assessment and Plan
   56 yo F with stage IV NSCLC, on palliative chemotherapy s/p
   [**Doctor Last Name 293**]/gemcitabine last dose 2/25 presents from NH with
   nausea/vomiting/diarrhea and febrile neutropenia in septic shock, now
   with recovering WBC and no longer in shock.
   # Sepsis: Blood cultures from [**2113-2-6**] negative, but blood cultures 3/04
   & [**2-11**] pending.  Not requiring pressure support.
   - d/cd most antibiotics  yesterday, continues on Ciprofloxacin 400
   mg IV Q12H, can likely discontinue this.
   - F/U pending blood cultures
   - Discuss methylprednisolone dose with BMT, until then continue 50mg
   [**Hospital1 7**], day 7
   # Febrile Neutropenia: Last fever on [**2-10**] to 101. s/p [**Doctor Last Name **]/Gemcitabine
   [**2-2**] (day 11post-chemo), expect nadir on day [**9-21**] and recovery ~day
   21. WBC 16.4 up from 0.1 since admission with left shift suggesting
   response to GCSF.
   - GCSF discontinued yesterday, suspect that leukocytosis is from
   overshoot of GCSF and not infectious etiology as pt is afebrile and
   without other signs of infection.
   - Monitor counts daily
   - F/U blood cultures
   .
   # Thrombocytopenia/Pancytopenia: [**1-10**] to marrow suppression from
   chemotherapy. Hct stable at 30.3. Platelets 41, lagging but this is to
   be expected. Coagulation panel stable.
   - [**Hospital1 7**] CBC
 QD given that counts are coming up.
   # Respiratory Failure: Acute, hypoxic, likely [**1-10**] volume overload as
   patient 10.8L LOS positive.  No changes in ventilator settings over
   past 24 hours and unlikely to make improvements until significant
   diuresis.
   - continues on lasix drip, gentle diuresis as BP tolerates
   - Wean as tolerates
   # Oliguria: Started lasix gtt [**2-9**] with excellent response. Cr stable at
   0.8.
   - Goal diuresis negative 1L today
   - [**Hospital1 7**] electrolytes
   # Partial SBO vs. Motility Disorder: Not tolerating tube feeds since
   [**2-12**] with bilious leakage around g-tube site.
   - restarted tube feeds yesterday without problems.
   - [**Name2 (NI) **] negative.
   # Loculated Right Pleural Effusion: s/p IP drainage of 400 ccs of fluid
   on [**2113-2-7**], drained 350cc again [**2-10**]. Gram stain negative and cultures
   negative. LDH eff/LDH serum = 0.72, suggestive of exudative process;
   most likely malignancy.
   - Drain pleurex q3 days
   # Access: Has a femoral CVL and femoral A line.  Will need replacement
   at some point, may depend on goals of care discussion.
   # Goals of care: Overall prognosis poor without demonstrable clinical
   improvement. Length before anticipated recovery of WBCs, respiratory
   status unknown, but patient not a candidate for further chemotherapy.
   Prognosis poor.
   - Family meeting today to readdresss.  It is the patient
s wish that
   she go to her daughter
s house on hospice.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-13**] 05:13 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-7**] 03:26 AM
   Multi Lumen - [**2113-2-7**] 03:27 AM
   Prophylaxis:
   DVT: pneumoboots.
   Stress ulcer:
   VAP:
   Comments: Pantoprazole 40 [**Hospital1 7**]
   Communication:  Patient.
   Code status: DNR (do not resuscitate)
   Disposition:  to home with hospice, per pt
s wishes, pending
   conversation this afternoon with daughter.

2113-02-15 07:03:00 Physician Resident Progress Note
Chief Complaint: CC: Shortness of Breath
   [**Hospital Unit Name 1**] admission: Hypercarbic respiratory failure
   24 Hour Events:
   - palliative care consulted; per conversation w family, daughter stated
   that pt should  be full code. Plan is for PC to weigh in on med changes
   tomorrow. Continue meds she is on for now. Get med list from [**Hospital1 **] as
   goal is to get her on her original meds and see how she does.
   -needs access, now that PLTs are recovering and goals of care seem to
   be more towards tx, IR order placed for tunneled port.
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2113-2-13**] 06:05 AM
   Vancomycin - [**2113-2-13**] 07:45 AM
   Cefipime - [**2113-2-13**] 08:21 AM
   Ciprofloxacin - [**2113-2-15**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2113-2-14**] 10:01 AM
   Fentanyl - [**2113-2-14**] 06:10 PM
   Pantoprazole (Protonix) - [**2113-2-14**] 08:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-15**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 98 (88 - 113) bpm
   BP: 89/58(70) {85/58(69) - 169/96(128)} mmHg
   RR: 13 (13 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,694 mL
                                                                    558 mL
   PO:
             TF:
                                                                    604 mL
                                                                    217 mL
   IVF:
                                                                  1,049 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  5,625 mL
                                                                  1,390 mL
   Urine:
                                                                  5,625 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,931 mL
                                                                   -831 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 13
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 88
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: ///40/
   Ve: 6.3 L/min
   Physical Examination
   Gen: Trached, alert, responds to verbal commands, moves all extremities
   HEENT: pupils reactive
   Neck: supple, no LAD
   Lungs: Coarse throughout, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no audible murmurs
   Abdomen:  tense, non-distended, NT, normoactive bowel sounds
   GU: foley in place
   Ext: warm, well perfused, 1+ pulses, upper extremities with significant
   anasarca
   Neurologic: moving arms & feet bilaterally
   Labs / Radiology
   61 K/uL
   9.8 g/dL
   139 mg/dL
   0.9 mg/dL
   40 mEq/L
   3.1 mEq/L
   24 mg/dL
   90 mEq/L
   138 mEq/L
   28.9 %
   27.3 K/uL
        [image002.jpg]
                             [**2113-2-11**]  08:07 PM
                             [**2113-2-12**]  04:26 AM
                             [**2113-2-12**]  11:12 AM
                             [**2113-2-12**]  02:24 PM
                             [**2113-2-13**]  03:23 AM
                             [**2113-2-13**]  03:37 AM
                             [**2113-2-13**]  02:37 PM
                             [**2113-2-14**]  03:54 AM
                             [**2113-2-14**]  03:19 PM
                             [**2113-2-15**]  05:28 AM
   WBC
   0.5
   2.3
   8.8
   16.4
   27.3
   Hct
   23.7
   25.3
   25.6
   30.9
   30.3
   28.9
   Plt
   33
   25
   21
   18
   32
   41
   61
   Cr
   0.6
   0.7
   0.7
   0.8
   0.8
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   32
   40
   Glucose
   101
   101
   105
   110
   113
   99
   139
   Other labs: PT / PTT / INR:13.9/23.3/1.2, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:101/37, Alk Phos / T Bili:150/0.3,
   Differential-Neuts:56.0 %, Band:7.0 %, Lymph:8.0 %, Mono:23.0 %,
   Eos:0.0 %, Fibrinogen:414 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:452 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR [**2113-2-13**]:
   Moderate right pleural effusion, partially fissural, it is probably
   larger, as
   the left lung demonstrates new mild pulmonary edema persists in the
   left lower
   lobe atelectasis. Small-to-moderate left pleural effusion is probably
   present
   as well. Tracheostomy tube in standard placement.
   Assessment and Plan
   56 yo F with stage IV NSCLC, on palliative chemotherapy s/p
   [**Doctor Last Name 293**]/gemcitabine last dose 2/25 presents from NH with
   nausea/vomiting/diarrhea and febrile neutropenia in septic shock, now
   with recovering WBC and no longer in shock, made full code yesterday by
   daughter who is health care proxy.
   # Sepsis: All blood cultures negative to date, most recent drawn
   [**2113-2-14**].  Only on cipro.  Urine cloudy.
   - d/c
ed most antibiotics yesterday, continues on Ciprofloxacin 400
   mg IV Q12H, can likely discontinue this.
   - F/U pending blood cultures
   - Discuss methylprednisolone dose with BMT, until then continue 50mg
   daily
   # Febrile Neutropenia: Last fever on [**2-10**] to 101. s/p [**Doctor Last Name **]/Gemcitabine
   [**2-2**] (day 14 post-chemo), expect nadir on day [**9-21**] and recovery ~day
   21. WBC 27.3 today.  GCSF stopped [**2113-2-13**]. leukocytosis is likely from
   overshoot of GCSF and not infectious etiology as pt is afebrile and
   without other signs of infection.
   - Monitor counts daily
   - F/U blood cultures
   .
   # Thrombocytopenia/Pancytopenia: [**1-10**] to marrow suppression from
   chemotherapy. Hct stable. Platelets 61. Coagulation panel stable.
   - daily CBC.
   # Respiratory Failure: Acute, hypoxic, likely [**1-10**] volume overload as
   patient 10.8L LOS positive.  Excellent diuresis yesterday on lasix gtt.
   No changes in ventilator settings over past 24 hours.
   - continues on lasix drip, diurese as BP tolerates.
   - Wean sedation
   # Fluid Overload: Started lasix gtt [**2-9**] with excellent response. Cr
   stable at 0.9. With diuresis of > 3L, possible contraction alkalosis
   with bicarb of 40, K 3.1, Cl 90.
   - continue lasix gtt
   - follow I/Os
   - replete KCl
   - [**Hospital1 7**] electrolytes
   # Partial SBO vs. Motility Disorder: Restarted tube feeds [**2-13**] w/o
   problems, now at goal.  C. Diff negative. Restarted tube feeds
   yesterday without problems.
   - Continue TF at goal.
   # Loculated Right Pleural Effusion: s/p IP drainage of 400 ccs of fluid
   on [**2113-2-7**], drained 350cc again [**2-10**]. Gram stain negative and cultures
   negative. LDH eff/LDH serum = 0.72, suggestive of exudative process;
   most likely malignancy.
   - Drain pleurex q3 days
   # Access: Has a femoral CVL and femoral A line.  Planned replacement of
   femoral access by IR today.
   # Goals of care: Appreciate palliative care input. Per discussion with
   daughter (HCP) she is full code.  Appreciate palliative care input.
   - restart home medications, including opioids, benzodiazepenes.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-15**] 02:32 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-7**] 03:26 AM
   Multi Lumen - [**2113-2-7**] 03:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   CRITICAL CARE
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined during
   multidisciplinary rds this morning
   97    102     130/80
   More alert, interactive
   Chest exhalation prolonged w/o wheezes
   CV distant
   Abd soft
   WBC 27k
   Hct 29
   Substantially improved with marrow recovery.  We are successfully
   diuresing and we are starting to decrease vent support. Transitioning
   to PEG/sl/cutaneous meds for sedation/pain.  [**Month (only) 51**] be ready for trial of
   trache collar tomorrow
   Time spent 40 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2113-2-15**] 18:59 ------

2113-02-16 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'd cipro
   - restarted home meds
   - tunneled line placed (femoral hickman)
   - wean from gtt's
   - pleurex drained 350cc
   - in the PM, patient awake, moving around in bed, talking with daughter
   - PM lytes not drawn until 1AM - K was 2.8, HCO3 up to 44, Cr to 1.0 -
   held Lasix gtt, repleted K
   -no longer on fentanyl or midazolam
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-13**] 07:45 AM
   Cefipime - [**2113-2-13**] 08:21 AM
   Ciprofloxacin - [**2113-2-15**] 12:43 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-15**] 07:59 AM
   Fentanyl - [**2113-2-15**] 02:00 PM
   Midazolam (Versed) - [**2113-2-15**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-16**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 121 (95 - 129) bpm
   BP: 130/72(85) {87/49(58) - 138/85(97)} mmHg
   RR: 18 (13 - 66) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,331 mL
                                                                     22 mL
   PO:
             TF:
                                                                    327 mL
   IVF:
                                                                  1,005 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                  4,860 mL
                                                                    715 mL
   Urine:
                                                                  4,860 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,529 mL
                                                                   -693 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 13
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 82
   PIP: 19 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: ///42/
   Ve: 7.6 L/min
   Physical Examination
   Gen: Trached, alert, moves all extremities,  comfortably sleeping.
   Neck: supple, no LAD
   Lungs: Coarse throughout, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no audible murmurs
   Abdomen:  tense, non-distended, NT, normoactive bowel sounds
   GU: foley in place
   Ext: warm, well perfused, 1+ pulses, upper extremities with
   significantly improved edema
   Neurologic: moving arms & feet bilaterally
   Labs / Radiology
   104 K/uL
   10.7 g/dL
   118 mg/dL
   1.0 mg/dL
   42 mEq/L
   5.2 mEq/L
   21 mg/dL
   88 mEq/L
   136 mEq/L
   31.4 %
   41.8 K/uL
        [image002.jpg]
                             [**2113-2-12**]  11:12 AM
                             [**2113-2-12**]  02:24 PM
                             [**2113-2-13**]  03:23 AM
                             [**2113-2-13**]  03:37 AM
                             [**2113-2-13**]  02:37 PM
                             [**2113-2-14**]  03:54 AM
                             [**2113-2-14**]  03:19 PM
                             [**2113-2-15**]  05:28 AM
                             [**2113-2-16**]  01:18 AM
                             [**2113-2-16**]  05:31 AM
   WBC
   2.3
   8.8
   16.4
   27.3
   41.8
   Hct
   25.3
   25.6
   30.9
   30.3
   28.9
   31.4
   Plt
   21
   18
   32
   41
   61
   104
   Cr
   0.7
   0.7
   0.8
   0.8
   0.9
   0.9
   1.0
   1.0
   TropT
   <0.01
   TCO2
   32
   40
   Glucose
   101
   105
   110
   113
   99
   139
   185
   118
   Other labs: PT / PTT / INR:13.2/22.6/1.1, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:101/37, Alk Phos / T Bili:150/0.3,
   Differential-Neuts:56.0 %, Band:7.0 %, Lymph:8.0 %, Mono:23.0 %,
   Eos:0.0 %, Fibrinogen:414 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:452 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**2-15**]:
   Microbiology: Blood cltx neg through [**2-9**], later ones pending.
   Urine cltx negative
   cdiff negative
   Assessment and Plan
   56 yo F with stage IV NSCLC, on palliative chemotherapy s/p
   [**Doctor Last Name 293**]/gemcitabine last dose 2/25 presents from NH with
   nausea/vomiting/diarrhea and febrile neutropenia in septic shock, now
   with recovering WBC and resolution of shock.
   # Sepsis: Resolved. All blood cultures negative to date, most recent
   drawn [**2113-2-14**].  Cipro discontinued [**2-15**].
   - F/U pending blood cultures
   - Discuss methylprednisolone dose with BMT, until then continue 50mg
   daily
   # Febrile Neutropenia: Last fever on [**2-10**] to 101. s/p [**Doctor Last Name **]/Gemcitabine
   [**2-2**] (day 14 post-chemo), expect nadir on day [**9-21**] and recovery ~day
   21. WBC 41.8 today.  GCSF stopped [**2113-2-13**]. leukocytosis is likely from
   overshoot of GCSF and not infectious etiology as pt is afebrile and
   without other signs of infection.
   - Monitor counts daily
   - F/U blood cultures
   .
   # Thrombocytopenia/Pancytopenia: [**1-10**] to marrow suppression from
   chemotherapy. Hct stable. Platelets 104. Coagulation panel stable.
   - daily CBC.
   # Respiratory Failure: Acute, hypoxic, likely [**1-10**] volume overload as
   patient was 10.8L LOS positive.  Diuresed 7L on lasix gtt. No changes
   in ventilator settings over past 24 hours.
   - continues on lasix drip, diurese as BP tolerates.
   - Wean sedation; attempt trach collar trial today.
   # Fluid Overload: Started lasix gtt [**2-9**] with excellent response. Cr
   stable at 1.0. With diuresis of > 3L, possible contraction alkalosis
   with bicarb of 42, Cl 88.  K yesterday late evening was 2.8, given 40
   po K and 40 IV K. This AM, K 5.2, will recheck this in the afternooon
   to ensure it trends down.
   - continue lasix gtt
   - follow I/Os
   - [**Hospital1 7**] electrolytes
   # Partial SBO vs. Motility Disorder: Restarted tube feeds [**2-13**] w/o
   problems, now at goal.  C. Diff negative. Restarted tube feeds
   yesterday without problems.
   - Continue TF at goal.
   # Loculated Right Pleural Effusion: s/p IP drainage of 400 ccs of fluid
   on [**2113-2-7**], drained 350cc again [**2-10**]. Gram stain negative and cultures
   negative. LDH eff/LDH serum = 0.72, suggestive of exudative process;
   most likely malignancy.
   - Drain pleurex q3 days
   # Access: Established [**2-15**] by IR, tunneled port catheter, L femoral. R
   femoral arterial line in place, consider d/cing today.
   # Goals of care: Appreciate palliative care input. Per discussion with
   daughter (HCP) she is full code.  Appreciate palliative care input.
   - restarted home medications, including opioids, benzodiazepenes [**2-15**].
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-15**] 02:32 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Tunneled port catheter
   Arterial Line - [**2113-2-7**] 03:26 AM
   Tunneled port cath, L femoral vein
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held yesterday
   Code status: Full code
   Disposition: ICU

2113-02-17 07:45:00 Physician Resident Progress Note
Chief Complaint: neutropenic fever with septic shock
   24 Hour Events:
   - Decreased methylprenisolone to 25mg IV q24
   - Decreased roxicet to 50mg NG q3 --> will further taper this per PC
   recs
   - Started ativan 0.5mg PO q4 prn anxiety
   - started fentanyl patch 300
   - started standing reglan and prn compazine per palliative care recs
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2113-2-15**] 12:43 PM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-17**] 07:39 AM
   Heparin Sodium (Prophylaxis) - [**2113-2-17**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-17**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 107 (104 - 132) bpm
   BP: 141/75(90) {72/44(51) - 152/89(102)} mmHg
   RR: 17 (12 - 44) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    659 mL
                                                                    364 mL
   PO:
             TF:
                                                                    471 mL
                                                                    308 mL
   IVF:
                                                                    187 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  3,795 mL
                                                                    800 mL
   Urine:
                                                                  3,795 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,136 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 412 (321 - 412) mL
   PS : 10 cmH2O
   RR (Set): 13
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 59
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: ///45/
   Ve: 6.2 L/min
   Physical Examination
   Gen: Trached, alert, moves all extremities, responds to questions and
   commands.
   Neck: supple, no LAD
   Lungs: Some rhonchi anteriorly but improved from baselien, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no audible murmurs
   Abdomen: NABS, NT, ND, no r/g
   GU: foley in place
   Ext: warm, well perfused, 1+ pulses, upper extremities with
   significantly improved edema
   Neurologic: moving arms & feet bilaterally
   Labs / Radiology
   102 K/uL
   8.9 g/dL
   106 mg/dL
   1.1 mg/dL
   45 mEq/L
   3.3 mEq/L
   22 mg/dL
   87 mEq/L
   137 mEq/L
   26.9 %
   42.7 K/uL
        [image002.jpg]
                             [**2113-2-13**]  03:23 AM
                             [**2113-2-13**]  03:37 AM
                             [**2113-2-13**]  02:37 PM
                             [**2113-2-14**]  03:54 AM
                             [**2113-2-14**]  03:19 PM
                             [**2113-2-15**]  05:28 AM
                             [**2113-2-16**]  01:18 AM
                             [**2113-2-16**]  05:31 AM
                             [**2113-2-16**]  02:06 PM
                             [**2113-2-17**]  04:57 AM
   WBC
   2.3
   8.8
   16.4
   27.3
   41.8
   42.7
   Hct
   25.6
   30.9
   30.3
   28.9
   31.4
   26.9
   Plt
   18
   32
   41
   61
   104
   102
   Cr
   0.7
   0.8
   0.8
   0.9
   0.9
   1.0
   1.0
   1.0
   1.1
   TCO2
   40
   Glucose
   105
   110
   113
   99
   139
   185
   118
   106
   106
   Other labs: PT / PTT / INR:13.2/22.6/1.1, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:71/32, Alk Phos / T Bili:189/0.4,
   Differential-Neuts:56.0 %, Band:7.0 %, Lymph:8.0 %, Mono:23.0 %,
   Eos:0.0 %, Fibrinogen:414 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:452 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Imaging: none
   Microbiology: blood cultures pending
   Assessment and Plan
   56 yo F with stage IV NSCLC, on palliative chemotherapy s/p
   [**Doctor Last Name 293**]/gemcitabine last dose 2/25 presented from NH with
   nausea/vomiting/diarrhea and febrile neutropenia in septic shock, now
   with recovering WBC and resolution of shock.
   .
   # Sepsis: Resolved. All blood cultures negative to date, most recent
   drawn [**2113-2-14**].  Cipro discontinued [**2-15**].
   - F/U pending blood cultures
   - Further taper of methylprednisolone dose from 50 mg daily
 25 mg
   daily yesterday.
   # Febrile Neutropenia: Last fever on [**2-10**] to 101. s/p [**Doctor Last Name **]/Gemcitabine
   [**2-2**] (day 14 post-chemo), expect nadir on day [**9-21**] and recovery ~day
   21. WBC 42.7 today.  GCSF stopped [**2113-2-13**]. leukocytosis is likely from
   overshoot of GCSF and not infectious etiology as pt is afebrile and
   without other signs of infection.
   - Monitor counts daily
   - F/U blood cultures
   .
   # Respiratory Failure: Acute, hypoxic, likely [**1-10**] volume overload as
   patient was 10.8L LOS positive.  Diuresed 7L on lasix gtt.
   - -422 ccs now fluid balance, lasix drip d/cd.
   - Wean sedation; attempt trach collar trial today.
   .
   # Palliative care/Pain control:  Appreciate PC recommendations.
- Continuing fentanyl 300mcg/hr TP q72hrs.
- Tapering roxicet per PC recs: now at 50mg PO/NG Q3H x12 hours, then 20mg PO/NG
Q3H today or tomorrow. Then reassess opiate requirements.
   .
   # Partial SBO vs. Motility Disorder: Restarted tube feeds [**2-13**] w/o
   problems, now at goal.  C. Diff negative. Restarted tube feeds
   yesterday without problems.
   - Continue TF at goal.
   .
   # Loculated Right Pleural Effusion: s/p IP drainage of 400 ccs of fluid
   on [**2113-2-7**], drained 350cc again [**2-10**]. Gram stain negative and cultures
   negative. LDH eff/LDH serum = 0.72, suggestive of exudative process;
   most likely malignancy.
   - Drain pleurex q3 days
   # Access: Established [**2-15**] by IR, tunneled port catheter, L femoral. R
   femoral arterial line in place, consider d/cing today.
   # Goals of care: Appreciate palliative care input. Per discussion with
   daughter (HCP) she is full code.  Appreciate palliative care input.
   - restarted home medications, including opioids, benzodiazepenes [**2-15**].
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-15**] 02:32 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Tunneled port catheter
   Arterial Line - [**2113-2-7**] 03:26 AM
   Tunneled port cath, L femoral vein
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: patient, family.
   Code status: Full code
   Disposition: ICU with plan for dispo to rehab.